US06326369B1
Ethyl 10-(6-bromo-2,3,4,5-tetramethoxyphenyl)-9,9-diethoxycarbonyldecanoate
A THF (10 ml) solution of ethyl 2,9-diethoxycarbonylnonanoate (8.86 g, 26.8 mmols) was dropwise added to a THF (90 ml) suspension of sodium hydride (60% oily, 1.29 g, 32.2 mmols) at room temperature. The reaction mixture was stirred for 2 hours, and then a THF (10 ml) solution of 1-bromo-6-bromomethyl-2,3,4,5-tetramethoxybenzene (10.9 g, 29.5 mmols) was dropwise added at room temperature, and stirring was continued for additional 2 hours. The reaction mixture was diluted with a saturated aqueous ammonium chloride solution and then concentrated in vacuo. The residue was extracted with ethyl acetate, and the resulting organic layer was washed with water and a saturated aqueous sodium chloride solution, then dried, and concentrated in vacuo. The crude product thus obtained was purified by silica gel column chromatography (hexane:ethyl acetate=10:1 to 4:1) to obtain the entitled compound (10.9 g) as an oil.

reactant | THF | 10 ml | C1CCOC1 | C4H8O
reactant | ethyl 2,9-diethoxycarbonylnonanoate | 26.8 mmols, 8.86 g | C(C)OC(=O)C(C(=O)OCC)CCCCCCCC(=O)OCC | C17H30O6
reactant | THF | 90 ml | C1CCOC1 | C4H8O
reactant | sodium hydride | 32.2 mmols, 1.29 g | [H-].[Na+]
reactant | THF | 10 ml | C1CCOC1 | C4H8O
reactant | 1-bromo-6-bromomethyl-2,3,4,5-tetramethoxybenzene | 29.5 mmols, 10.9 g | BrC1=C(C(=C(C(=C1CBr)OC)OC)OC)OC | C11H14Br2O4
solvent | ammonium chloride | [Cl-].[NH4+]
product | Ethyl 10-(6-bromo-2,3,4,5-tetramethoxyphenyl)-9,9-diethoxycarbonyldecanoate | 10.9 g | BrC1=C(C(=C(C(=C1CC(CCCCCCCC(=O)OCC)(C(=O)OCC)C(=O)OCC)OC)OC)OC)OC | C28H43BrO10
